US03969391
222 Parts of redistilled tetrahydrofuran is cooled to 0° and then treated with 15.6 parts by volume of 1M lithium aluminum hydride in tetrahydrofuran. The temperature of that mixture is lowered to -70° and 6.92 parts of methyl 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoate dissolved in 53 parts of tetrahydrofuran is added. The addition takes place over a 2 minute period and the temperature of the reaction mixture is not allowed to rise above -60°. After the addition is complete, the temperature is lowered to -70° and the reaction mixture is stirred for 41/2 hours. Then 4 parts of methanol and 8.9 parts of tetrahydrofuran is added and the temperature of the reaction mixture is allowed to rise to -20° at which time 60 parts by volume of a 1 N hydrochloric acid solution is slowly added. The resulting mixture is allowed to stand for 16 hours at a temperature of about 4°. Then the solvent is removed under reduced pressure and the residue which remains is diluted with ethyl acetate. The aqueous and organic layers which form are separated and the organic layer is washed with water, potassium bicarbonate and water and dried over anhydrous sodium sulfate. After the solvent is removed under reduced pressure, the remaining material is chromatographed on silicic acid with ethyl acetate-benzene (1:4) as eluant to afford methyl 3-hydroxy-5-oxocylopent-1-eneheptanoate.

reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoate | COC1=C(C(C(C1)O)=O)CCCCCCC(=O)OC | C14H22O5
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 3-hydroxy-5-oxocylopent-1-eneheptanoate | OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
